### PR TITLE
Add a tactic for proofs about hlevels

### PR DESCRIPTION
**Pull request by arnoudvanderleer**

### CODE REVIEW

File: UniMath/MoreFoundations/Tactics.v [hunk 1]
```diff
@@ -83,3 +83,62 @@ Ltac split19 := split; [| split18].
...
+  end.
+
+(* Try to close the goal in one of the standard ways *)
+Local Ltac finish :=
+  match goal with
+  | [ |- isofhlevel 0 _ ] => apply iscontrunit
+  | [ |- isofhlevel 1 _ ] => apply propproperty
+  | [ |- isofhlevel 2 _ ] => apply setproperty
+  | _ =>
+    apply isofhlevel_HLevel ||
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Tactics.v:119]: For this tactic, you can match the goal in the following way
```
| [ |- isofhlevel (S ?n) (HLevel n)
```
(something like this)

File: UniMath/MoreFoundations/Tactics.v [hunk 2]
```diff
@@ -83,3 +83,62 @@ Ltac split19 := split; [| split18].
...
+  refine (_ : isofhlevel _ (∑ _, _)) ||
+  refine (_ : isofhlevel _ (_ → _)) ||
+  refine (_ : isofhlevel _ (∏ tmp, _)).
+
+(* Reduce a goal about hlevels to its components *)
+Ltac prove_hlevel' n :=
+  convert_to_hlevel;
+  repeat progress_hlevel;
+  match n with
+  | _ ?n' => unfold_hlevel_expression; prove_hlevel' n'
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Tactics.v:136]: I don't understand this part of the code. Why do you need to match `n`?

File: UniMath/MoreFoundations/Tactics.v [hunk 3]
```diff
@@ -83,3 +83,62 @@ Ltac split19 := split; [| split18].
...
+  match goal with
+  | [ |- isofhlevel 0 _ ] => apply iscontrunit
+  | [ |- isofhlevel 1 _ ] => apply propproperty
+  | [ |- isofhlevel 2 _ ] => apply setproperty
+  | _ =>
+    apply isofhlevel_HLevel ||
+    apply hlevelntosn; finish
+  end.
+
+Ltac unfold_hlevel_expression :=
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Tactics.v:123]: Can you add a comment that explains what this tactic does?

File: UniMath/MoreFoundations/Tactics.v [hunk 4]
```diff
@@ -83,3 +83,62 @@ Ltac split19 := split; [| split18].
...
+  repeat progress_hlevel;
+  match n with
+  | _ ?n' => unfold_hlevel_expression; prove_hlevel' n'
+  | _ => try finish
+  end.
+
+Tactic Notation "prove_hlevel" :=
+  prove_hlevel' 0.
+
+Tactic Notation "prove_hlevel" constr(n) :=
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Tactics.v:143]: Why do you need `constr` around the `n`?

File: UniMath/MoreFoundations/Tactics.v [hunk 5]
```diff
@@ -83,3 +83,62 @@ Ltac split19 := split; [| split18].
...
+  | [ |- isaset _ ] => refine (_ : isofhlevel 2 _)
+  | _ => fail
+  end.
+
+(* Reduce the different possible constructions *)
+Local Ltac progress_hlevel :=
+  match goal with
+  | [ |- isofhlevel ?n        (_ = _)  ] => refine ((_ : isofhlevel (S n) _) _ _)
+  | [ |- isofhlevel 1         (_ ⨿ _)  ] =>
+    refine (isapropcoprod _ _ (_ : isofhlevel _ _) (_ : isofhlevel _ _) _)
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Tactics.v:104]: This branch generates a goal `P -> Q -> empty`. Could that cause unintended errors?

**Review by nmvdw — APPROVED** [review]
This tactic seems quite nice. How was the performance in the cases in which you tried it?

I only have one major comment: the tactic is a bit complicated (there is some conversion, some matching), so I think it is necessary to add some tests to it.

**Comment by benediktahrens** [comment]
- This tactic seems to save very little work, judging from the diff.
- The need for unfolding seems to indicate that the tactic is not yet ready.
- In general, I am hesitant to support automation, since it is a pain to fix in case of failure - in particular in code we are not familiar with.

File: UniMath/AlgebraicTheories/AlgebraicTheoryMorphisms.v [hunk 6]
```diff
@@ -182,8 +181,7 @@ Proof.
   - do 2 (apply funextsec; intro).
     apply H1.
   - apply isaprop_is_nat_trans, homset_property.
-  - apply setproperty.
-  - unfold preserves_composition.
-    prove_hlevel.
-  - exact isapropunit.
+  - prove_hlevel 1.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/AlgebraicTheoryMorphisms.v:184]: Why do you need to use `prove_hlevel` multiple times here?

File: UniMath/MoreFoundations/Tactics.v (hunk 1 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Tactics.v:119]: This does not close the goal `isofhlevel 3 hSet` though. Is there a reason why we would want to match the goal to something in this case?

File: UniMath/MoreFoundations/Tactics.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Tactics.v:136]: Ah. I thought this was a very nifty trick. The `n` in this case (maybe I should rename it) allows one to specify how many times definitions should be unfolded before being handed back to the user. This to both be able to do one-liners like
```
Lemma isaprop_is_algebraic_theory_algebra
  {T : algebraic_theory_data}
  (A : algebraic_theory_algebra_data T)
  : isaprop (is_algebraic_theory_algebra A).
Proof.
  prove_hlevel 2.
Qed.
```
while simultaneously allowing one to use `isaprop_is_algebraic_theory_algebra` in the cases where we are proving that something (with `is_algebraic_theory_algebra` as a component) is a proposition.

File: UniMath/MoreFoundations/Tactics.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Tactics.v:123]: Yes, will do!

File: UniMath/MoreFoundations/Tactics.v (hunk 5 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Tactics.v:104]: I believe it wouldn't, because after `convert_to_hlevel`, anything that cannot be processed further and cannot be finished by the tactic will just be handed back to the user as a goal.
Also, from my experience, it doesn't.
However, I will specifically test this just once more.

File: UniMath/MoreFoundations/Tactics.v (hunk 4 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Tactics.v:143]: This is because, as far as I understand it (but the docs are not very easy to read), one needs to specify what kind of parameter we are expecting. In this case, we just want some term (usually something of type `nat`, but if someone wants to provide a list, that is also not a problem): https://coq.inria.fr/refman/user-extensions/syntax-extensions.html#coq:cmd.Tactic-Notation

**Comment by nmvdw** [comment]
> * This tactic seems to save very little work, judging from the diff.
> * The need for unfolding seems to indicate that the tactic is not yet ready.
> * In general, I am hesitant to support automation, since it is a pain to fix in case of failure - in particular in code we are not familiar with.

My comments to this would be as follows:
- The kind of goals that are solved, are of the form `isaprop`, `isaset`, `iscontr` or `isofhlevel`
- These goals can be solved systematically and always in the same way.
- The added automation would then go through the term systematically and build the expected proof
- It is kinda similar to `is_iso` for bicategories (https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/Core/Invertible_2cells.v#L313)

However, it is indeed the case that automation can be difficult to fix in case of failure. For that reason, I think there are four main requirements for this tactic:
1. It must be robust.
2. It must be well-tested in a wide variety of cases.
3. It must be simple.
4. The goals that it solves, should be simple enough so that a proof for them can easily be reproduced.

Especially (1) and (2) are important, I would say.

File: UniMath/MoreFoundations/Tactics.v (hunk 1 above)
Comment (nmvdw) [reply UniMath/MoreFoundations/Tactics.v:119]: Hmm, good point. Maybe they could have separate clauses?

**Comment by m-lindgren** [comment]
This is not the first time something like this has been proposed, see: https://github.com/UniMath/UniMath/pull/828.

**Comment by arnoudvanderleer** [comment]
> This is not the first time something like this has been proposed, see: #828 and the discussion in #853.

Ah, thanks for mentioning this. I had not seen those. It seems like there is very much not a consensus about this, and not a final decision has been made in the 2017 and 2018 discussions.

Even though I think this tactic would be a good idea, and not a lot can go wrong, I will close this PR for now. If, at some point in the future, a consensus has been reached in favour of this kind of tactic, someone can reopen it.

File: UniMath/MoreFoundations/Tactics.v (hunk 5 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Tactics.v:104]: I checked: it won't cause unintended errors.
